US08729110B1
To a solution of methyl 4-formylbenzoate (CAS [1571-08-0] 5.33 g, 32.5 mmol) in methanol (40 mL) were added trimethyl orthoformate (7.5 mL, 68.25 mmol) and sulfuric acid (fuming, 3 drops). After heating to reflux with stirring for 16 h, the reaction mixture was cooled to RT and diluted with methylene chloride. The mixture was washed with a saturated solution of sodium bicarbonate and brine, dried over magnesium sulfate, and concentrated to afford 7 g of methyl 4-(dimethoxymethyl)benzoate as a colorless oil.

reactant | methyl 4-formylbenzoate | 32.5 mmol, 5.33 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | trimethyl orthoformate | 68.25 mmol, 7.5 mL | C(OC)(OC)OC | C4H10O3
solvent | methanol | 40 mL | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 4-(dimethoxymethyl)benzoate | 7 g | COC(C1=CC=C(C(=O)OC)C=C1)OC | C11H14O4
